US07432284B2
A solution of 1-bromo-3a-ethyl-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one (120 mg, 0.37 mmol) in DMF (3 mL) was treated with [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (61 mg, 0.075 mmol), triphenylarsine (23 mg, 0.075 mmol), water (0.22 mL, 12.2 mmol), Cs2CO3 (244 mg, 0.75 mmol), and triethylborane (0.75 mL of a 1.0M solution in tetrahydrofuran, 0.75 mmol). The resulting mixture was placed under a N2 atmosphere, stirred, and heated in an oil bath at 55-65° C. for 100 minutes. After cooling, the mixture was quenched with saturated aqueous NH4Cl and diluted with CH2Cl2. The organic phase was dried over MgSO4 and filtered through a pad of silica gel, washing through with EtOAc. The filtrate was evaporated under vacuum to remove the solvents. The residue was purified by preparative layer chromatography on two 0.1×20×20 cm silica gel GF plates (Analtech, Newark, Del.), developing with 4:1 hexane-EtOAc. The UV visible product band was extracted with 5% MeOH in CH2Cl2 and the extracts evaporated under vacuum to provide 1,3a-diethyl-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one as a crystalline solid.

reactant | 1-bromo-3a-ethyl-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | 0.37 mmol, 120 mg | BrC=1C(CC2(C1C1=CC=C(C=C1CC2)OC)CC)=O | C16H17BrO2
reactant | triphenylarsine | 0.075 mmol, 23 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | water | 12.2 mmol, 0.22 mL | O | H2O
reactant | Cs2CO3 | 0.75 mmol, 244 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | triethylborane | C(C)B(CC)CC | C6H15B
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,3a-diethyl-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | C(C)C=1C(CC2(C1C1=CC=C(C=C1CC2)OC)CC)=O | C18H22O2
